** sch_path: /foss/designs/ttihp26a-adex-neuron-ncs/xschem/trimmer_test.sch
**.subckt trimmer_test
V1 VDD GND 1.8
Ven CSen GND 1.8
Ven1 DB0 GND 1.8
Ven2 DB1 GND 1.8
Ven3 DB2 GND 1.8
Ven4 DB3 GND 1.8
x1 DB0 DB1 DB2 DB3 VDD GND CSen net2 trimmer
R1 net1 GND 300
Vmeas net2 net1 0
.save i(vmeas)
**** begin user architecture code


.include trimmer.save
.option savecurrent
.param temp=127
.control
set noaskquit
save all
op
write trim.raw
alter Ven dc 1.8
alter ven1 dc 1.8
alter ven2 dc 0.0
alter ven3 dc 0.0
alter ven4 dc 0.0
tran 1n 1u
write trim.raw
*plot en enN enMon
*plot D0 D1 D2 D3
*plot vstart
*plot vbp vbp_casc
plot v(ibias)/300
*plot vmeas#branch
*quit
.endc





.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ


**** end user architecture code
**.ends

* expanding   symbol:  trimmer.sym # of pins=8
** sym_path: /foss/designs/ttihp26a-adex-neuron-ncs/xschem/trimmer.sym
** sch_path: /foss/designs/ttihp26a-adex-neuron-ncs/xschem/trimmer.sch
.subckt trimmer D0 D1 D2 D3 VDD VSS en out
*.ipin en
*.ipin D0
*.ipin D1
*.ipin D2
*.ipin D3
*.opin out
*.iopin VDD
*.iopin VSS
XMP1 net1 net1 net12 VDD sg13_lv_pmos w=0.28u l=8.0u ng=1
XMP2 vstart vstart net1 VDD sg13_lv_pmos w=0.28u l=8.0u ng=1
XMN2 net3 vstart GND GND sg13_lv_nmos w=0.28u l=8.0u ng=1
XMN1 vstart vstart GND GND sg13_lv_nmos w=0.28u l=8.0u ng=1
XMP3 net2 vbp net11 VDD sg13_lv_pmos w=2.0u l=2.0u ng=2
XMP4 net3 vbp_casc net2 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP5 net4 vbp net10 VDD sg13_lv_pmos w=2.0u l=2.0u ng=1 m=2
XMP6 net6 vbp_casc net4 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP7 net5 vbp net9 VDD sg13_lv_pmos w=2.0u l=2.0u ng=1 m=2
XMP8 vbp vbp_casc net5 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP9 net6 net3 VDD VDD sg13_lv_pmos w=0.28u l=8.0u ng=1
XMN3 net6 net6 GND GND sg13_lv_nmos w=2.0u l=2.0u ng=1
XMN4 vbp_casc net6 net7 GND sg13_lv_nmos w=2.0u l=2.0u ng=1 m=4
XR1 vbp vbp_casc sub! rppd w=0.5e-6 l=389e-6 m=1 b=0
XR2 net7 GND sub! rhigh w=0.5e-6 l=152.5e-6 m=1 b=0
XMP10 net13 vbp net14 VDD sg13_lv_pmos w=2.0u l=2.0u ng=1 m=2
XMP11 out vbp_casc net13 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP16 vbp_casc enMon VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1
XMP17 net9 net8 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP18 net10 net8 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP19 net12 net8 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1
XMP20 net11 net8 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1
XMN5 vstart net8 GND GND sg13_lv_nmos w=2u l=0.28u ng=1
XMN6 net6 net8 GND GND sg13_lv_nmos w=2u l=0.28u ng=1
xinv2 VDD net8 enMon GND inv
XMP12 net14 net15 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP13 net16 vbp net17 VDD sg13_lv_pmos w=2.0u l=2.0u ng=1 m=4
XMP14 out vbp_casc net16 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=4
XMP15 net17 net18 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP21 net19 vbp net20 VDD sg13_lv_pmos w=2.0u l=2.0u ng=1 m=8
XMP22 out vbp_casc net19 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=8
XMP23 net20 net21 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
XMP24 net22 vbp net23 VDD sg13_lv_pmos w=2.0u l=2.0u ng=1 m=16
XMP25 out vbp_casc net22 VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=16
XMP26 net23 net24 VDD VDD sg13_lv_pmos w=2.0u l=0.28u ng=1 m=2
xinv6 VDD en net8 GND inv
xinv3 VDD D0 net15 GND inv
xinv7 VDD D1 net18 GND inv
xinv8 VDD D2 net21 GND inv
xinv9 VDD D3 net24 GND inv
.ends


* expanding   symbol:  inv.sym # of pins=4
** sym_path: /foss/designs/ttihp26a-adex-neuron-ncs/xschem/inv.sym
** sch_path: /foss/designs/ttihp26a-adex-neuron-ncs/xschem/inv.sch
.subckt inv VDD in out VSS
*.iopin VDD
*.ipin in
*.iopin VSS
*.opin out
XM1 out in VSS VSS sg13_lv_nmos w=1.2u l=0.28u ng=1
XM2 out in VDD VDD sg13_lv_pmos w=2.4u l=0.28u ng=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
